.SUBCKT LM117HV 1 2 3
*
IADJ 1 4 48.4U
VREF 4 3 1.2782
RC 1 14 0.742
DBK 14 13 DLM117HV
CBC 13 15 2.479N
RBC 15 5 247
QP 13 5 2 QLM117HV
RB2 6 5 124
DSC 6 11 DLM117HV
ESC 11 2 POLY (2) (13,5) (6,5) 2.85
+ 0 0 0 -70.1M
DFB 6 12 DLM 117HV
EFB 12 2 POLY(2) (13,5) (6,5) 3.92
+ -135M 0 1.21M -70.1M
RB1 7 6 1
EB 7 2 8 2 2.56
CPZ 10 2 0.796U
DPU 10 2 DLM117HV
RZ 8 10 .104
RP 9 8 100
EP 9 2 4 2 103.6
RI 2 4 100MEG
.MODEL QLM117HV NPN (IS=30F BF=50
+ VAF=14.27 NF=1.604)
.MODEL DLM117HV D (IS=30F N=1.604)
.ENDS LM117HV
